US08003662B2
Step B: Preparation of N-(3-chloro-4-(2-iodothieno[3,2-b]pyridin -7-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide:
Prepared from 3-chloro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)benzenamine (0.300 g, 0.499 mmol) and 1-((4-fluorophenyl)carbamoyl)cyclopropanecarboxylic acid (0.167 g, 0.749 mmol; prepared from cyclopropane-1,1-dicarboxylic acid and 4-fluoroaniline using the methods described in WO 2005/030140 and by Shih and Rankin, Synth. Comm. 1996, 26(4), 833-836) according to the procedure for Example 72, Step B. The crude was purified by Biotage 40S (2:1EtOAc/Hexane). After concentration the product was a brown oil (160 mg, 26%). LRMS (ESI pos) m/e 608 (M+1).

reactant | 3-chloro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)benzenamine | 0.499 mmol, 0.300 g | ClC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)N | C13H8ClIN2OS
reactant | 1-((4-fluorophenyl)carbamoyl)cyclopropanecarboxylic acid | FC1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)O | C11H10FNO3
reactant | cyclopropane-1,1-dicarboxylic acid | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | N-(3-chloro-4-(2-iodothieno[3,2-b]pyridin -7-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | ClC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)N(C(=O)C2(CC2)C(=O)N)C2=CC=C(C=C2)F | C24H16ClFIN3O3S
